US07229986B2
4-[4-(4-Chlorophenyl)-1-piperidinyl]-4-oxo-1-(1,2,3,4-tetrahydro-7-isoquinolinyl]-1-butanone
A solution of 4-[4-(4-chlorophenyl)-1-piperidinyl]-4-oxo-1-[2-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-isoquinolinyl]-1-butanone (1.1 g, 2.17 mmol) and potassium carbonate (900 mg, 6.5 mmol) in a mixed solvent of water (10 ml) and methanol (40 ml) was stirred at room temperature for 2 hours and then extracted with ethyl acetate. The extract was washed with a saturated saline solution and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduced pressure, whereby 810 mg of the title compound was obtained as colorless powder.

reactant | 4-[4-(4-chlorophenyl)-1-piperidinyl]-4-oxo-1-[2-(trifluoroacetyl)-1,2,3,4-tetrahydro-7-isoquinolinyl]-1-butanone | 2.17 mmol, 1.1 g | ClC1=CC=C(C=C1)C1CCN(CC1)C(CCC(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O)=O | C26H26ClF3N2O3
reactant | potassium carbonate | 6.5 mmol, 900 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 10 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 4-[4-(4-Chlorophenyl)-1-piperidinyl]-4-oxo-1-(1,2,3,4-tetrahydro-7-isoquinolinyl]-1-butanone | 810 mg | ClC1=CC=C(C=C1)C1CCN(CC1)C(CCC(=O)C1=CC=C2CCNCC2=C1)=O | C24H27ClN2O2
